US07825278B2
1,1-Dimethylethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate.
1,1-Dimethylethyl 2-chlorobenzoylacetate (87 mg, 0.342 mmol) and N,N-dimethylformamide dimethyl acetal (50 μL, 45 mg, 0.375 mmol) were stirred in 1 mL of toluene. After 6 d, the reaction was concentrated in vacuo and the residue was subjected to flash chromatography. Elution with 1:1 hexanes/EtOAc afforded 61 mg (58%) of the title compound as an oil that solidified on standing, mp 97-99° C.

reactant | 1,1-Dimethylethyl 2-chlorobenzoylacetate | 0.342 mmol, 87 mg | ClC1=C(C(=O)CC(=O)OC(C)(C)C)C=CC=C1 | C13H15ClO3
reactant | N,N-dimethylformamide dimethyl acetal | 0.375 mmol, 50 μL, 45 mg | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-Dimethylethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate | 61 mg, 58% | ClC1=C(C=CC=C1)C(C(C(=O)OC(C)(C)C)=CN(C)C)=O | C16H20ClNO3
